US06846832B2
a) 4-(3-Fluoro-benzyloxy)-phthalic Acid Bis-(3-fluoro-benzyl)ester
A mixture of 4-hydroxyphthalic acid (5.0 g, 27.5 mmol), 3-fluorobenzylbromide (31.14 g, 164.7 mmol) and potassium carbonate (15.18 g, 109.8 mmol) in THF:water (1:1, 200 mL) was heated under reflux for 72 h. After cooling to RT, the mixture was then half evaporated and the residue extracted with ethyl acetate (100 mL). The organic layer was then washed with brine, dried over sodium sulfate, filtered and evaporated. The mixture was then heated in a Kugelrohr apparatus (160° C. at 15 mmHg) to remove the excess 3-fluorobenzylbromide to leave the title compound (13.1 g, 94%) as a light yellow liquid. MS m/e=506.1 (M).

reactant | 4-hydroxyphthalic acid | 27.5 mmol, 5.0 g | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | 3-fluorobenzylbromide | 164.7 mmol, 31.14 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | potassium carbonate | 109.8 mmol, 15.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF water | 200 mL | C1CCOC1.O
product | 4-(3-Fluoro-benzyloxy)-phthalic Acid Bis-(3-fluoro-benzyl)ester | 13.1 g, 94% | FC=1C=C(COC(C=2C(C(=O)OCC3=CC(=CC=C3)F)=CC(=CC2)OCC2=CC(=CC=C2)F)=O)C=CC1 | C29H21F3O5
